US04346093
17.4 g. 2,3-Diamino-1-[2-hydroxy-3-(3,4-dimethoxyphenethylamino)-propoxy]-benzene trihydrochloride are dissolved in 450 ml. chloroform and 50 ml. ethanol and mixed dropwise at ambient temperature with 3.2 ml. thiophosgene in 30 ml. chloroform. After 2 hours, the reaction mixture is treated with active charcoal and then evaporated to dryness. The residue is purified over a column of silica gel, using chloroform/methanol (8:2 v/v) as elution agent, to give 10 g. (62% of theory) of uniform product. After taking up in isopropanol and mixing with ethereal hydrochloric acid, followed by precipitation by the addition of ethyl acetate, there is obtained 4-[2-hydroxy-3-(3,4-dimethoxyphenethylamino)propoxy]-benzimidazoline-2-thione hydrochloride; m.p. 108°-110° C.

reactant | 2,3-Diamino-1-[2-hydroxy-3-(3,4-dimethoxyphenethylamino)-propoxy]-benzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=CC=C1N)OCC(CNCCC1=CC(=C(C=C1)OC)OC)O
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
reactant | charcoal | C | CH4
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
product | 4-[2-hydroxy-3-(3,4-dimethoxyphenethylamino)propoxy]-benzimidazoline-2-thione hydrochloride | Cl.OC(COC1=CC=CC=2NC(NC21)=S)CNCCC2=CC(=C(C=C2)OC)OC | InChI=1S/C20H25N3O4S.ClH/c1-25-16-7-6-13(10-18(16)26-2)8-9-21-11-14(24)12-27-17-5-3-4-15-19(17)23-20(28)22-15;/h3-7,10,14,21,24H,8-9,11-12H2,1-2H3,(H2,22,23,28);1H
